US06172057B2
3-(2-Bromo-phenyl)-2-(4-methoxy-benzenesulfonyl)-2-methyl-propionic acid was prepared starting from 3-(2-bromo-phenyl)-2-(4-methoxy-benzenesulfonyl)-2-methyl-propionic acid ethyl ester (3.0 g, 68 mmol) dissolved in methanol (50 ml) and 10 N NaOH (30 ml). The resulting reaction mixture was worked up as outlined in Example 9. Yield 1.7 g, 63%. Waxy solid; MS: 414 (M+H)+.

reactant | 3-(2-bromo-phenyl)-2-(4-methoxy-benzenesulfonyl)-2-methyl-propionic acid ethyl ester | 68 mmol, 3.0 g | C(C)OC(C(CC1=C(C=CC=C1)Br)(C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H21BrO5S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 3-(2-Bromo-phenyl)-2-(4-methoxy-benzenesulfonyl)-2-methyl-propionic acid | BrC1=C(C=CC=C1)CC(C(=O)O)(C)S(=O)(=O)C1=CC=C(C=C1)OC | C17H17BrO5S
